US06455520B1
N-{3-[4-(2-pyridylmethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide
Using an analogous procedure to that described in Example 7 except that the reaction mixture was heated to 70° C. for 48 hours rather than to 40° C. for 18 hours, N-[3-(4-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide was reacted with 2-chloromethylpyridine to give the title compound in 72% yield; NMR Spectrum: (DMSOd6) 2.22 (s, 3H), 5.28 (s, 2H), 7.16 (d, 2H), 7.22 (d, 1H), 7.34 (m, 1H), 7.53 (m, 1H), 7.62 (m, 2H), 7.85 (m, 2H), 7.95 (m, 1H), 8.12 (d, 1H), 8.23 (m, 1H), 8.52 (m, 1H), 8.59 (m, 2H), 9.0 (d, 1H), 10.48 (s, 1H); Mass Spectrum: M+H+ 489.

reactant | N-[3-(4-hydroxybenzamido)-4-methylphenyl]quinoline-6-carboxamide | OC1=CC=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=C1 | C24H19N3O3
reactant | 2-chloromethylpyridine | ClCC1=NC=CC=C1 | C6H6ClN
product | N-{3-[4-(2-pyridylmethoxy)benzamido]-4-methylphenyl}quinoline-6-carboxamide | 72% yield | N1=C(C=CC=C1)COC1=CC=C(C(=O)NC=2C=C(C=CC2C)NC(=O)C=2C=C3C=CC=NC3=CC2)C=C1 | C30H24N4O3
